US08563541B2
Intermediate D-4: 2-(4-Aminopyridin-3-yl)-1-(2-fluoropyridin-3-yl)ethanol
tert-Butyl 3-[2-(2-fluoropyridin-3-yl)-2-hydroxyethyl]pyridin-4-ylcarbamate (2.00 g, 6.00 mmol, Intermediate D-3) was dissolved in methylene chloride (40 mL) and trifluoroacetic acid (40 mL). The solution was stirred at room temperature for one hour. The solution was concentrated in vacuo and the residue was dissolved in ethyl acetate and washed with NaHCO3/water. The aqueous layer was then saturated with solid NaCl, and extracted with ethyl acetate repeatedly (8 times). The combined extracts were dried over MgSO4, filtered, and concentrated to provide an oil which slowly solidified. The desired product was isolated as an off-white solid and was used directly in the next step without further purification. 1H NMR (DMSO-d6) δ 8.10 (d, 1H), 8.01 (m, 1H), 7.90 (d, 1H), 7.77 (s, 1H), 7.34 (m, 1H), 7.18 (m, 1H), 6.59 (m, 2H), 5.80 (bs, 1H), 5.00 (m, 1H), 2.83 (m, 2H). LC/MS: 234 (M+H)+.

reactant | tert-Butyl 3-[2-(2-fluoropyridin-3-yl)-2-hydroxyethyl]pyridin-4-ylcarbamate | 6.00 mmol, 2.00 g | FC1=NC=CC=C1C(CC=1C=NC=CC1NC(OC(C)(C)C)=O)O | C17H20FN3O3
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-Aminopyridin-3-yl)-1-(2-fluoropyridin-3-yl)ethanol | NC1=C(C=NC=C1)CC(O)C=1C(=NC=CC1)F | C12H12FN3O
